US06953806B2
To a solution of trans-3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-propionic acid ethyl ester in 40 ml of tetrahydrofuran was added under ice-cooling 547 mg (14.0 mmol) of lithium aluminium hydride in small portions. The reaction mixture was then stirred for 1 hour at room temperature. To destroy the excess of lithium aluminium hydride, 50 ml of brine was added to the reaction mixture under ice-cooling. It was then partitioned between ether and water, the organic layer was dried over magnesium sulfate and concentrated under reduced pressure giving 3.35 g (100% over 2 stepts) nearly pure trans-{2-[4-(3-hydroxy-propyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester as colorless viscous oil, MS. 317 (MNH4+).

reactant | trans-3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-propionic acid ethyl ester | C(C)OC(CC[C@@H]1CC[C@H](CC1)CCN(C)C(=O)OC(C)(C)C)=O | C19H35NO4
reactant | lithium aluminium hydride | 14.0 mmol, 547 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | trans-{2-[4-(3-hydroxy-propyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CCCO)=O | C17H33NO3
